US09023840B2
5-Chloro-4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluoro-N-isopropylbenzamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 3, Step 1-3 starting from 4,5-dichloro-2-fluorobenzoic acid (Ark Pharm, Inc., Cat. #: AK-29091), 2-propanamine and {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride. LCMS (M+H)+: m/z=493.2/495.2. 1H NMR (400 MHz, DMSO-d6): δ 12.65 (s, 1H), 9.09 (s, 1H), 8.85 (s, 1H), 8.56 (s, 1H), 7.86 (dd, J=8.0, 2.5 Hz, 1H), 7.78 (m, 1H), 7.52 (d, J=7.0 Hz, 1H), 7.23 (m, 1H), 6.64 (d, J=12.0 Hz, 1H), 4.77 (d, J=9.0 Hz, 2H), 4.51 (d, J=9.0 Hz, 2H), 3.75 (s, 2H), 4.00 (m, 1H), 1.12 (d, J=6.5 Hz, 6H).

reactant | 4,5-dichloro-2-fluorobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1Cl)F | C7H3Cl2FO2
reactant | 2-propanamine | CC(C)N | C3H9N
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
product | 5-Chloro-4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluoro-N-isopropylbenzamide | ClC=1C(=CC(=C(C(=O)NC(C)C)C1)F)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2)CC#N | C24H22ClFN8O
